US05527751
2 ml of purified methylmethacrylate (MMA) was charged in the above flask where ethylene polymerization had been conducted, and block copolymerization was initiated at room temperature. After 2 hours, the reaction solution was poured into a large amount of methanol to stop polymerization and to precipitate a polymer. The polymer thus precipitated was filtrated, washed with methanol and dried under reduced pressure to measure its weight. The polymer thus obtained was extracted with chloroform in a Soxhlet apparatus for 4 hours, and the part insoluble in chloroform was taken out and dried to measure its weight. In this manner, 710 mg of white fine powdery ethylene/MMA block copolymer was obtained.

reactant | methylmethacrylate | 2 ml | COC(C(=C)C)=O | C5H8O2
reactant | ethylene | C=C | C2H4
solvent | methanol | CO | CH4O
product | ethylene MMA | 710 mg | C=C.COC(C(=C)C)=O | InChI=1S/C5H8O2.C2H4/c1-4(2)5(6)7-3;1-2/h1H2,2-3H3;1-2H2
